US07381719B2
Combine 4-(2-methylamino-ethyl)-phenol (1.0 g, 6.6 mmol), 6-chloronicotinamide (1.0 g, 6.6 mmol), and cesium carbonate (4.3 g, 13.2 mmol) in N,N-dimethylformamide (30 mL), stir and heat at 85° C. for 18 hours. Cool to room temperature and evaporate on a rotary evaporator to yield the crude product (1.3 g). The crude product is purified by flash column chromatography on silica gel eluting with 1% conc. ammonium hydroxide/10% ethanol in chloroform then ethanol to yield 6-[4-(2-Methylamino-ethyl)-phenoxy]-nicotinamide (0.4 g, 1.5 mmol): 1H NMR (DMSO-d6, 300.00 MHz): 8.58 (d, 1H); 8.22 (dd, 1H); 7.26-7.23 (m, 2H); 7.05-7.02 (m, 3H); 3.32 (br, 2H); 2.69 (m, 5H); 2.29 (m, 4H)m/z=271.87 (M+1); HPLC=99% (5/95 to 95/5 ACN/(0.1%TFA in water) over 10 minutes, Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM.

reactant | 4-(2-methylamino-ethyl)-phenol | 6.6 mmol, 1.0 g | CNCCC1=CC=C(C=C1)O | C9H13NO
reactant | 6-chloronicotinamide | 6.6 mmol, 1.0 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | cesium carbonate | 13.2 mmol, 4.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 6-[4-(2-Methylamino-ethyl)-phenoxy]-nicotinamide | 1.5 mmol, 0.4 g | CNCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C15H17N3O2
